simulator lang=spectre
global 0

ahdl_include "./dut/vco_phase_integrator.va"

V_vctrl (vctrl 0) vsource type=pwl wave=[0 0.2 60n 0.2 61n 0.7 170n 0.7]

XDUT (vctrl phase clk) vco_phase_integrator


simulatorOptions options evas_profile=balanced

tran tran stop=170n maxstep=500p
save vctrl phase clk
